US08304036B2
8.7 g (21.4 mmol) of [5-(4-triisopropylsilanyloxyphenyl)selenophen-2-yl]-methanol are initially introduced in 200 ml of THF, and 50 ml of TBAF (50 mmol, 1 M soln. in THF) are added with ice-cooling. After 30 min at this temperature, the mixture is added to water and extracted with MTBE. The organic phase is separated off, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is recrystallised from ethyl acetate. 4-(5-Hydroxymethylselenophen-2-yl)phenol is obtained as a beige solid.

reactant | [5-(4-triisopropylsilanyloxyphenyl)selenophen-2-yl]-methanol | 21.4 mmol, 8.7 g | C(C)(C)[Si](OC1=CC=C(C=C1)C1=CC=C([Se]1)CO)(C(C)C)C(C)C | C20H30O2SeSi
reactant | TBAF | 50 mmol, 1 M, 50 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-(5-Hydroxymethylselenophen-2-yl)phenol | OCC1=CC=C([Se]1)C1=CC=C(C=C1)O | C11H10O2Se
